US07939666B2
Step 4: (S)-2-[4-(tert-Butoxycarbonylamino-methyl)-benzylamino]-3-phenyl-propionic acid cyclopentyl ester
(4-Formyl-benzyl)-carbamic acid tert-butyl ester (200 mg, 0.85 mmol) was dissolved in DCE (10 mL) and to this was added phenyl alanine cyclopentyl ester (214 mg, 0.94 mmol). The reaction was stirred at r.t. for 15 min. Sodium triacetoxyborohydride (538 mg, 2.55 mmol) and acetic acid (60 uL) were added and the reaction stirred for a further 1 h. Saturated sodium bicarbonate (10 ml) was added and the solution diluted with DCM (20 mL). The organic layer was isolated and concentrated to afford the desired product which was taken onto the next step without further purification. m/z 453 [M++H+

reactant | (4-Formyl-benzyl)-carbamic acid tert-butyl ester | 0.85 mmol, 200 mg | C(C)(C)(C)OC(NCC1=CC=C(C=C1)C=O)=O | C13H17NO3
reactant | phenyl alanine cyclopentyl ester | 0.94 mmol, 214 mg | C1(CCCC1)OC([C@@H](NC1=CC=CC=C1)C)=O | C14H19NO2
reactant | Sodium triacetoxyborohydride | 2.55 mmol, 538 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 60 uL | C(C)(=O)O | C2H4O2
product | (S)-2-[4-(tert-Butoxycarbonylamino-methyl)-benzylamino]-3-phenyl-propionic acid cyclopentyl ester | C1(CCCC1)OC([C@H](CC1=CC=CC=C1)NCC1=CC=C(C=C1)CNC(=O)OC(C)(C)C)=O | C27H36N2O4
